Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
BRBPR
 
Major Surgical or Invasive Procedure:
NONE

 
History of Present Illness:
___ year old male with history of bradycardia s/p PPM, prior 
clinical CVA without MR correlate, and prior GI bleeds ___ 
angiodysplasia, presenting with a single episode of gross blood 
in his toilet this morning, one day after receiving a 
colonoscopy. She complains of intermittent lightheadedness 
without syncope. She denies any chest pain or shortness of 
breath. He denies any abdominal pain or pain with his rectal 
bleeding. He has had one episode of the same in the past, about 
___ years ago. He denies any nausea or vomiting and he has been 
eating well.  
After his previous bleeding episode, it was explained to him 
that he had "angiodysplasia" and a capsule endoscopy showed the 
same, but they were unable to locate exactly where in the small 
bowel it was.  
 
In the ED, initial VS were: 97.3 88 127/67 20 99%. EKG showed a 
ventricular paced rhythm at a rate of 80, without evidence of 
sgarbossa criteria. GI was consulted and recommended medicine 
admission given continued BRBPR, though hematocrit stable and 
patient hemodynamically stable. Troponin trending down (0.02 --> 
<0.01).  

 
Past Medical History:
___, Left lateral medullary syndrome with no MRI 
correlate  
Appendicitis ___  
s/p hernia repair ___  
Bradycardia (1st degree AV block), followed by Dr. ___ in 
___, monitored on Holter in past and has had echo  
Hypercholesterolemia  
Glucose intolerance  
GIB ___ AVM  

 
Social History:
___
Family History:
Mother: died of a GI bleed in her ___ Father: died of an MI at 
age ___. No FH CVA 
 
Physical Exam:
ADMISSION PHYSICAL EXAM:  
VS: T 97.5, BP 150/62, HR 85, RR 16 and 100% RA  
GENERAL: well appearing, elderly male  
HEENT: NC/AT, PERRLA, EOMI, sclerae anicteric, MMM  
NECK: supple, no LAD  
LUNGS: CTA bilat, no r/rh/wh, good air movement, resp unlabored, 
no accessory muscle use  
HEART: RRR, no MRG, nl S1-S2, pacer in place in left upper chest 
 
ABDOMEN: normal bowel sounds, soft, non-tender, non-distended, 
no rebound or guarding, no masses  
EXTREMITIES: no edema, 2+ pulses radial and DPs  
NEURO: awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout, DTRs 2+ and 
symmetric  

DISCHARGE PHYSCIAL EXAM:  
VS: T 97.9, BP 116-150/59-66, HR 65-85, RR 17 and 95% RA  
GENERAL: well appearing, elderly male  
HEENT: NC/AT, PERRLA, EOMI, sclerae anicteric, MMM  
NECK: supple, no LAD  
LUNGS: CTA bilat, no r/rh/wh, good air movement, resp unlabored, 
no accessory muscle use  
HEART: RRR, no MRG, nl S1-S2, pacer in place in left upper chest 
 
ABDOMEN: normal bowel sounds, soft, non-tender, non-distended, 
no rebound or guarding, no masses  
EXTREMITIES: no edema, 2+ pulses radial and DPs  
NEURO: awake, A&Ox3, CNs II-XII grossly intact, muscle strength 
___ throughout, sensation grossly intact throughout, DTRs 2+ and 
symmetric  

 
Pertinent Results:
ADMISSION:
___ 10:30AM BLOOD WBC-7.7 RBC-5.20 Hgb-14.8 Hct-44.1 MCV-85 
MCH-28.5 MCHC-33.6 RDW-14.0 Plt ___
___ 10:30AM BLOOD Neuts-73.6* ___ Monos-5.2 Eos-0.7 
Baso-0.7
___ 10:30AM BLOOD ___ PTT-34.3 ___
___ 10:30AM BLOOD Glucose-107* UreaN-20 Creat-0.9 Na-134 
K-4.2 Cl-98 HCO3-27 AnGap-13
___ 10:30AM BLOOD cTropnT-0.02*
___ 10:30AM BLOOD Calcium-9.4 Phos-2.9
___ 02:21PM URINE Blood-NEG Nitrite-NEG Protein-NEG 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-NEG

DISCHARGE:
___ 07:40AM BLOOD WBC-7.2 RBC-4.64 Hgb-13.3* Hct-39.6* 
MCV-85 MCH-28.6 MCHC-33.5 RDW-14.2 Plt ___
___ 07:40AM BLOOD ___ PTT-33.0 ___
___ 07:40AM BLOOD Glucose-102* UreaN-15 Creat-0.8 Na-141 
K-3.9 Cl-107 HCO3-25 AnGap-13
___ 07:40AM BLOOD Glucose-102* UreaN-15 Creat-0.8 Na-141 
K-3.9 Cl-107 HCO3-25 AnGap-13
___ 05:00PM BLOOD cTropnT-<0.01
___ 07:40AM BLOOD Calcium-9.0 Phos-3.4 Mg-1.___ year old with history of bradycardia s/p PPM and prior GI 
bleed secondary to angiodysplasia presenting with BRBPR 1 day 
after a colonoscopy with diverticulosis and s/p polypectomy.  

ACTIVE ISSUES:
# Lower GI bleeding: The patient had BRBPR and his hematocrit 
has been trended throughout the day, starting at 44.1 and 
trending to 40.7. He has a number of reasons to have lower GI 
bleeding given his history, but the time course after a recent 
colonoscopy seems likely to be secondary to the polypectomy 
itself. But given quick resolution, patient likely to just have 
post-procedural bleeding. Hct stable on discharge, 
hemodynamically stable. Will follow up with GI in one month. 
Continued ASA because risk of stroke/MI greater then increasing 
bleed. 

CHRONIC ISSUES:
# Hyperlipidemia: continue fenofibrate 

TRANSITIONAL ISSUES:
- F/u with GI in one month
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Tricor *NF* (fenofibrate nanocrystallized) 48 mg Oral daily 
2. MethylPHENIDATE (Ritalin) 10 mg PO 1X/WEEK (___) concentration 

3. Omeprazole 40 mg PO DAILY 
4. tadalafil *NF* unknown  Oral PRN 
5. Aspirin 81 mg PO DAILY 
6. biotin *NF* 5000 mcg Oral daily 
7. Vitamin D 1000 UNIT PO 2X/WEEK (MO,TH) 
8. flaxseed oil *NF* unknown  Oral unknown 
9. Multivitamins 1 TAB PO DAILY 
10. Fish Oil (Omega 3) Dose is Unknown  PO Frequency is Unknown 

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Omeprazole 40 mg PO DAILY 
3. biotin *NF* 5000 mcg Oral daily 
4. Multivitamins 1 TAB PO DAILY 
5. MethylPHENIDATE (Ritalin) 10 mg PO 1X/WEEK (___) concentration 

6. Tricor *NF* (fenofibrate nanocrystallized) 48 mg Oral daily 
7. Vitamin D 1000 UNIT PO 2X/WEEK (MO,TH) 
8. flaxseed oil *NF* 1 unit ORAL DAILY 
Take at previous dose 
9. Fish Oil (Omega 3) 1 unit PO DAILY 
Please take previous dose 
10. tadalafil *NF* 2.5 mg ORAL PRN erectile dysfunction 
Please take as previously prescribed 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Post polypectomy bleeding

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,
It was a pleasure taking care of you at the ___ 
___. You presented to ___ with blood in 
your stool. This was felt to be due to the polyp removal you had 
on colonoscopy the day before. You were monitored overnight and 
did well. You should follow up with your GI doctor.
 
Followup Instructions:
___